US08236789B2
A solution of 1-(adamantan-2-yl)-4-(2,5-dihydrobenzo[b]oxepin-9-yl)-3,3-dimethylazetidin-2-one (21.1 mg, 0.0560 mmol) in methanol (2 mL) was added with palladium carbon ethylenediamine complex (catalyst amount), and the resultant was stirred at room temperature for 6 hours under a hydrogen atmosphere. The reaction solution was filtered using celite, concentrated in vacuo, and 1-(adamantan-2-yl)-3,3-dimethyl-4-(benzo[b]oxepan-9-yl)azetidin-2-one (16.2 mg, 76.2%) was obtained as a colorless oil.

reactant | 1-(adamantan-2-yl)-4-(2,5-dihydrobenzo[b]oxepin-9-yl)-3,3-dimethylazetidin-2-one | 0.0560 mmol, 21.1 mg | C12C(C3CC(CC(C1)C3)C2)N2C(C(C2C2=CC=CC3=C2OCC=CC3)(C)C)=O | C25H31NO2
solvent | methanol | 2 mL | CO | CH4O
product | 1-(adamantan-2-yl)-3,3-dimethyl-4-(benzo[b]oxepan-9-yl)azetidin-2-one | 16.2 mg, 76.2% | C12C(C3CC(CC(C1)C3)C2)N2C(C(C2C2=CC=CC3=C2OCCCC3)(C)C)=O | C25H33NO2
